US09403810B2
Step 2: 8-Isopropoxy-1,4-dioxaspiro[4.5]decane
To a stirred solution of 1,4-dioxaspiro[4.5]decan-8-ol (0.5 g, 3.16 mmol) in 2-iodopropane (5.37 g, 31.6 mmol), silver (I) oxide (1.392 g, 6.01 mmol) was added and the reaction mixture was stirred at room temperature. Upon completion the resulting suspension was diluted with EtOAc and the suspension filtered under reduced pressure. The filtrate was concentrated under reduced pressure to give a pale yellow oil. The crude material was adsorbed onto silica and purification by chromatography eluting with 0-30% EtOAc in iso-hexane to afforded the title compound;

reactant | 1,4-dioxaspiro[4.5]decan-8-ol | 3.16 mmol, 0.5 g | O1CCOC12CCC(CC2)O | C8H14O3
reactant | 2-iodopropane | 31.6 mmol, 5.37 g | IC(C)C | C3H7I
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | silver (I) oxide | 6.01 mmol, 1.392 g | [Ag-]=O
product | 8-Isopropoxy-1,4-dioxaspiro[4.5]decane | C(C)(C)OC1CCC2(OCCO2)CC1 | C11H20O3
